* C:\Users\Mathias Lampert\Documents\Mathias Schule_Studium\FH\ELITE-Semester\EIT_3\Schaltungstechnik\Labor\Labor10\Laborvorbereitung.asc
* Generated by LTspice 24.1.9 for Windows.
V1 in1 0 AC 1
V2 out2 0 AC 1
R1 N001 in1 220
R2 0 N001 100
R3 N001 out1 680
R4 N002 in2 220
R5 0 N002 100
R6 N002 out2 680
V3 in3 0 AC 1
V4 out4 0 AC 1
R7 N003 in3 220
R8 0 N003 100
R9 N003 out3 680
R10 N004 in4 220
R11 0 N004 100
R12 N004 out4 680
* Z11 = U1/I1 when I2=0
* Z12 = U1/I2 when I1=0
* Z21 = U2/I1 when I2=0
* Z22 = U2/I2 when I1=0
.meas AC Z11 PARAM V(in1)/I(V1)
.meas AC Z21 PARAM V(out1)/I(V1)
.meas AC Z12 PARAM V(in2)/I(V2)
.meas AC Z22 PARAM V(out2)/I(V2)
.ac list 1
.backanno
.end
